US07060425B1
3-(4-hydroxy-3-tert.butylphenyl) propionic acid methyl ester (10.0 g), glyoxylic acid (7.4 g of the 50% solution in water) and p-toluene sulphonic acid (40 mg) are heated in 40 ml ethylene chloride under nitrogen at reflux for 3 hours distilling off all water present and formed during the reaction. The reaction mixtures is washed with water, dried over magnesium sulphate and evaporated under reduced pressure to give 13.0 g of 7-tert.butyl-5-(2-methoxycarbonylethyl)-3-hydroxy-3H-benzofuran-2-one.

reactant | 3-(4-hydroxy-3-tert.butylphenyl) propionic acid methyl ester | 10.0 g | COC(CCC1=CC(=C(C=C1)O)C(C)(C)C)=O | C14H20O3
reactant | glyoxylic acid | C(C=O)(=O)O | C2H2O3
reactant | p-toluene sulphonic acid | 40 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
solvent | ethylene chloride | 40 ml | C(CCl)Cl | C2H4Cl2
product | 7-tert.butyl-5-(2-methoxycarbonylethyl)-3-hydroxy-3H-benzofuran-2-one | 13.0 g | C(C)(C)(C)C1=CC(=CC=2C(C(OC21)=O)O)CCC(=O)OC | C16H20O5
